US07790732B2
b) 5-Chloro-4-methyl-3,4-dihydro-1H-quinazoline-2-thione
At a temperature of 65° C., sodium borohydride was added to a solution of 1-(2-amino-6-chloro-phenyl)-ethanone in ethanol, and the mixture was heated overnight (65° C.). Water, KSCN and HCl were then added subsequently, and the mixture was again heated (3 h, 65° C.). The majority of the title compound precipitated upon cooling and could be isolated in sufficiently pure form by filtration. A small additional amount of the desired product was obtained by workup of the mother liquor (evaporation of solvent, column chromatography [silica gel, solvent gradient n-heptan/ethyl acetate=100/0−60/40]). The title compound was obtained in a combined yield of 1.46 g (43%).

reactant | sodium borohydride | [BH4-].[Na+]
reactant | 1-(2-amino-6-chloro-phenyl)-ethanone | NC1=C(C(=CC=C1)Cl)C(C)=O | C8H8ClNO
reactant | KSCN | C(#N)[S-].[K+]
reactant | HCl | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
solvent | n-heptan ethyl acetate | CCCCCCC.C(C)(=O)OCC
solvent | Water | O | H2O
product | 5-Chloro-4-methyl-3,4-dihydro-1H-quinazoline-2-thione | ClC1=C2C(NC(NC2=CC=C1)=S)C | C9H9ClN2S
